US05760241
Preparation of N-[(2S)-3-phenylcarbonylthio-2-phenylmethylpropionyl]-4-(2-thiazolyl)-L-phenylalanine methyl ester (compound 1)
A solution of hydroxybenzotriazole (0.54 g; 4 mmoles) in tetrahydrofuran (30 ml) and, subsequently, a solution of dicyclohexylcarbodiimide (0.825 g; 4 mmoles) in methylene chloride (15 ml) were added, at 0° C. under stirring, to a mixture of (2S)-3-phenylcarbonylthio-2-phenylmethylpropionic acid (1.2 g; 4 mmoles), 4-(2-thiazolyl)-L-phenylalanine methyl ester dihydrochloride (1.34 g; 4 mmoles), prepared as described in example 4, triethylamine (1.11 ml; 8 mmoles) in tetrahydrofuran (20 ml) and methylene chloride (30 ml).

reactant | hydroxybenzotriazole | 4 mmoles, 0.54 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 4 mmoles, 0.825 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (2S)-3-phenylcarbonylthio-2-phenylmethylpropionic acid | 4 mmoles, 1.2 g | C1(=CC=CC=C1)C(=O)SC[C@H](C(=O)O)CC1=CC=CC=C1 | C17H16O3S
reactant | 4-(2-thiazolyl)-L-phenylalanine methyl ester dihydrochloride | 4 mmoles, 1.34 g | Cl.Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1SC=CN1)=O
reactant | triethylamine | 8 mmoles, 1.11 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[(2S)-3-phenylcarbonylthio-2-phenylmethylpropionyl]-4-(2-thiazolyl)-L-phenylalanine methyl ester | COC([C@@H](NC([C@@H](CSC(=O)C1=CC=CC=C1)CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C=1SC=CN1)=O | C30H28N2O4S2
